US07767675B2
Step 1. (2R)-2-[(tert-butoxycarbonyl)amino]propyl dimethylcarbamate
N,N-Dimethylcarbamoyl chloride (0.12 mL, 0.0013 mol) was added to a solution of tert-butyl [(1R)-2-hydroxy-1-methylethyl]carbamate (0.150 g, 0.856 mmol), 4-dimethylaminopyridine (0.02 g, 0.2 mmol) and pyridine (0.14 g, 1.7 mmol) in methylene chloride (3.0 mL). The mixture was stirred overnight, diluted with EtOAc and washed with 1N HCl, saturated NaHCO3 and brine. The organic layers were dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with EtOAc in hexanes (0-30%) to afford the desired product.

reactant | N,N-Dimethylcarbamoyl chloride | 0.0013 mol, 0.12 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | tert-butyl [(1R)-2-hydroxy-1-methylethyl]carbamate | 0.856 mmol, 0.150 g | OC[C@@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | pyridine | 1.7 mmol, 0.14 g | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.2 mmol, 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R)-2-[(tert-butoxycarbonyl)amino]propyl dimethylcarbamate | CN(C(OC[C@@H](C)NC(=O)OC(C)(C)C)=O)C | C11H22N2O4
